US06133264
61 Grams of 8-allyloxy-3,4-dihydro-5-hydroxy-6-(1-piperidinyl)methyl-2(1H)-quinolinone was suspended in 50% ethanol aqueous solution, the suspension was acidified by adding a concentrated hydrochloric acid, then crystals were precipitated immediately. Allowed to stand for a while, the crystals precipitated were collected by filtration, washed with ice-cooled ethanol and dried. The dried crystals were recrystallized from ethanol, there was obtained 40 g of 8-allyloxy-3,4-dihydro-5-hydroxy-6-(1-piperidinyl)methyl-2(1H)-quinolinone hydrochloride as pale yellow needle-like crystals.

reactant | 8-allyloxy-3,4-dihydro-5-hydroxy-6-(1-piperidinyl)methyl-2(1H)-quinolinone | C(C=C)OC=1C=C(C(=C2CCC(NC12)=O)O)CN1CCCCC1 | C18H24N2O3
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 8-allyloxy-3,4-dihydro-5-hydroxy-6-(1-piperidinyl)methyl-2(1H)-quinolinone hydrochloride | 40 g | Cl.C(C=C)OC=1C=C(C(=C2CCC(NC12)=O)O)CN1CCCCC1 | InChI=1S/C18H24N2O3.ClH/c1-2-10-23-15-11-13(12-20-8-4-3-5-9-20)18(22)14-6-7-16(21)19-17(14)15;/h2,11,22H,1,3-10,12H2,(H,19,21);1H
